US07432378B2
6-Chloro-4-methyl-2-{4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole
4-Methyl-2-{6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole. This compound was prepared by the method described in General Procedure 3 using 4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridine-3-carbaldehyde (60 mg, 0.22 mmol, 1.0 equiv), 5-chloro-3-methyl-benzene-1,2-diamine (34 mg, 0.22 mmol, 1.0 equiv) and Na2S2O5 (54 mg, 0.29 mmol, 1.3 equiv). Purification by Method 2 afforded 27 mg (30%) of the title compound. MS (electrospray): mass calculated for C23H29ClN4O, 412.20; m/z found, 413.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.77 (s, 1H), 8.23 (dd, J=8.7, 2.3 Hz, 1H), 7.25 (m, 1H), 7.12 (t, J=7.5 Hz, 1H), 7.04-6.98 (m, 1H), 6.74 (d, J=8.7 Hz, 1H), 4.34 (t, J=6.6 Hz, 2H), 2.84-2.76 (m, 2H), 2.73-2.34 (br s, 3H), 2.23 (s, 3H), 1.92-1.83 (m, 2H), 1.81-1.62 (m, 4H), 1.39-1.17 (m, 4H).

reactant | 4-Methyl-2-{6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole | CC1=CC=CC=2NC(=NC21)C=2C=NC(=CC2)OCCCC2CCN(CC2)C | C22H28N4O
reactant | 4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridine-3-carbaldehyde | 0.22 mmol, 60 mg, 1.0 equiv | CC1=C(C=NC(=C1)OCCCC1CCN(CC1)C)C=O | C16H24N2O2
reactant | 5-chloro-3-methyl-benzene-1,2-diamine | 0.22 mmol, 34 mg, 1.0 equiv | ClC1=CC(=C(C(=C1)N)N)C | C7H9ClN2
product | 6-Chloro-4-methyl-2-{4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole | 27 mg, 30% | ClC=1C=C(C2=C(NC(=N2)C=2C=NC(=CC2C)OCCCC2CCN(CC2)C)C1)C | C23H29ClN4O
